US08198267B2
1-(2-Methyl-4-nitrophenyl)-3-(trifluoromethyl)pyridin-2(1H)-one
2.5 g (15.3 mmol) of 3-(trifluoromethyl)pyridin-2(1H)-one are dissolved in 40 ml of dimethyl sulfoxide and admixed at room temperature with 2.58 g (22.9 mmol) of potassium tert-butoxide. The suspension is stirred at room temperature for 30 min, before 2.6 g (16.9 mmol) of 1-fluoro-2-methyl-4-nitrobenzene are added and the reaction solution is heated to 80° C. for 20 h. It is diluted cautiously with water. The solution is extracted repeatedly with dichloromethane. The combined organic extracts are washed with water and saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue is dissolved in acetonitrile and purified by preparative HPLC with a gradient of water and acetonitrile. The product fractions are combined and concentrated to dryness under reduced pressure. This affords 1.87 g (41% of theory) of the desired product.

reactant | 3-(trifluoromethyl)pyridin-2(1H)-one | 15.3 mmol, 2.5 g | FC(C=1C(NC=CC1)=O)(F)F | C6H4F3NO
reactant | potassium tert-butoxide | 22.9 mmol, 2.58 g | CC(C)([O-])C.[K+]
reactant | 1-fluoro-2-methyl-4-nitrobenzene | 16.9 mmol, 2.6 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(2-Methyl-4-nitrophenyl)-3-(trifluoromethyl)pyridin-2(1H)-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C(=CC=C1)C(F)(F)F)=O | C13H9F3N2O3
